US07601711B2
5-((S)-2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester
The title compound was synthesized in analogy to example 1, intermediate a), from 1H-indole-2,5-dicarboxylic acid 2-ethyl ester, O-(benzotriazol-1-yl)-N,N,N′, N′-tetramethyluronium tetrafluoroborate (commercially available), (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide, to give the desired product as a light yellow foam (90%).

reactant | 1H-indole-2,5-dicarboxylic acid 2-ethyl ester | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | O-(benzotriazol-1-yl)-N,N,N′, N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-((S)-2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 90% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H27N3O3
